US07723329B2
Step 3) 2-(2-Chloro-ethoxy)-4-methoxy-6-(naphthalene-1-sulfonylmethyl)-phenylamine
A mixture of 1-[3-(2-chloro-ethoxy)-5-methoxy-2-nitro-phenylmethanesulfonyl]-naphthalene (1.0 g, 2.5 mmoles) in ethanol (25 mL) was stirred under nitrogen in a round bottom flask at 60° C. 10% Pd/C was added, and the temperature was increased to 80° C. Hydrazine hydrate (2.0 mL) was added dropwise and the mixture was stirred at reflux for 3 hours. Reaction mixture was filtered off through Celite, and the solution was washed with H2O (3×), dried over Na2SO4, and concentrated under vacuum to afford the title compound as an off white solid (1.0 g, 2.46 mmoles).

reactant | 1-[3-(2-chloro-ethoxy)-5-methoxy-2-nitro-phenylmethanesulfonyl]-naphthalene | 2.5 mmoles, 1.0 g | ClCCOC=1C(=C(C=C(C1)OC)CS(=O)(=O)C1=CC=CC2=CC=CC=C12)[N+](=O)[O-] | C20H18ClNO6S
reactant | Hydrazine hydrate | 2.0 mL | O.NN
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-(2-Chloro-ethoxy)-4-methoxy-6-(naphthalene-1-sulfonylmethyl)-phenylamine | ClCCOC1=C(C(=CC(=C1)OC)CS(=O)(=O)C1=CC=CC2=CC=CC=C12)N | C20H20ClNO4S
